US03948967
A solution of 1-(3,4-dichlorophenyl)-1-hydroxy-3,3-dimethylurea (12.5 grams; 0.05 mol) in isopropyl alcohol (40 ml), and pyridine (6 ml) are charged into a glass reaction flask equipped with a mechanical stirrer. Phenyl chloroformate (7.8 grams; 0.05 mol) is added to the flask, with stirring, at a temperature of about 10° to 15°C. After the addition is completed, the reaction mixture is stirred for an additional period of about one-half hour resulting in the formation of a precipitate. After this time, the reaction mixture is poured onto ice and the precipitate is recovered by filtration and is dried. The dried precipitate is recrystallized to yield 1-(3,4-dichlorophenyl)-1-phenoxycarbonyloxy-3,3-dimethylurea.

reactant | 1-(3,4-dichlorophenyl)-1-hydroxy-3,3-dimethylurea | 0.05 mol, 12.5 grams | ClC=1C=C(C=CC1Cl)N(C(=O)N(C)C)O | C9H10Cl2N2O2
reactant | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
reactant | Phenyl chloroformate | 0.05 mol, 7.8 grams | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | isopropyl alcohol | 40 ml | C(C)(C)O | C3H8O
product | 1-(3,4-dichlorophenyl)-1-phenoxycarbonyloxy-3,3-dimethylurea | ClC=1C=C(C=CC1Cl)N(C(=O)N(C)C)OC(=O)OC1=CC=CC=C1 | C16H14Cl2N2O4
